US06436923B1
C. 2-(4-Bromophenyl)-N-{2-(3-methoxyphenyl)ethyl}-N-phenylacetamide
To a solution of {2-(3-methoxyphenyl)ethyl}phenylamine (1.06 g, 4.65 mmol) in ethyl acetate (80 mL) under nitrogen was added a solution of 4-bromophenylacetyl chloride (1.06 g, 4.65 mmol) in ethyl acetate (20 mL), the bromophenylacetyl chloride being prepared from the corresponding carboxylic acid (1 g, 4.65 mmol) and oxalyl chloride (0.61 mL, 6.98 mmol) in CH2Cl2 (20 mL). After 1 hour, the reaction was poured into water (50 mL). The organic layer was dried over MgSO4, filtered and concentrated to provide the title compound (1.92 g, 98% yield): EI-MS (m/z) 423.

reactant | {2-(3-methoxyphenyl)ethyl}phenylamine | 4.65 mmol, 1.06 g | COC=1C=C(C=CC1)CCNC1=CC=CC=C1 | C15H17NO
reactant | 4-bromophenylacetyl chloride | 4.65 mmol, 1.06 g | BrC1=CC=C(C=C1)CC(=O)Cl | C8H6BrClO
reactant | bromophenylacetyl chloride | BrC(C(=O)Cl)C1=CC=CC=C1 | C8H6BrClO
reactant | oxalyl chloride | 6.98 mmol, 0.61 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 2-(4-Bromophenyl)-N-{2-(3-methoxyphenyl)ethyl}-N-phenylacetamide | 1.92 g, 98% yield | BrC1=CC=C(C=C1)CC(=O)N(C1=CC=CC=C1)CCC1=CC(=CC=C1)OC | C23H22BrNO2
